US06716837B1
1-Dimethylaminocarbonyl-6-[N-methyl-1,2,5,6-tetrahydro-pyridin-4-yl]-indole (compound 33, amidation example)
From 6-(1-Methyl-1,2,5,6-tetrahydropyridin-4-yl)-indole (16.6 mg, 0.0735 mmol), dimethylcarbamyl chloride (15.8 mg. 0.147 mmol) and 1M NaN(TMS)2(0.147ml) in 0.5 ml of THF at 0° C. Yield 12.5 mg (60%), the reaction being carried out according to Example 6.

reactant | 6-(1-Methyl-1,2,5,6-tetrahydropyridin-4-yl)-indole | 0.0735 mmol, 16.6 mg | CN1CC=C(CC1)C1=CC=C2C=CNC2=C1 | C14H16N2
reactant | dimethylcarbamyl chloride | 0.147 mmol, 15.8 mg | CN(C(=O)Cl)C | C3H6ClNO
reactant | NaN(TMS)2 | 1M, 0.147ml | C[Si](C)(C)[N-][Si](C)(C)C.[Na+]
solvent | THF | 0.5 ml | C1CCOC1 | C4H8O
product | 1-Dimethylaminocarbonyl-6-[N-methyl-1,2,5,6-tetrahydro-pyridin-4-yl]-indole | CN(C(=O)N1C=CC2=CC=C(C=C12)C1=CCN(CC1)C)C | C17H21N3O
